US06821980B1
(37c) 2,2-Dimethyl-propane-1-sulphonic acid 4′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester
Starting from 272 mg (1.01 mmol) N-(4-bromo-phenyl)-2,2,2-trifluoro-acetamide and 265 mg (0.51 mmol) 2,2-dimethyl-propane-1-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester, 56 mg of the title compound are isolated as a yellowish foam after two chromatography operations.

reactant | N-(4-bromo-phenyl)-2,2,2-trifluoro-acetamide | 1.01 mmol, 272 mg | BrC1=CC=C(C=C1)NC(C(F)(F)F)=O | C8H5BrF3NO
reactant | 2,2-dimethyl-propane-1-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester | 0.51 mmol, 265 mg | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OS(=O)(=O)CC(C)(C)C)I)OCC | C18H25IN4O4S
product | 2,2-Dimethyl-propane-1-sulphonic acid 4′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester | 56 mg | NC1=CC=C(C=C1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OS(=O)(=O)CC(C)(C)C | C24H31N5O4S
